US06838463B2
In 9 ml of N,N-dimethylformamide were dissolved 202 mg of 4-chloro-6-(2,3-difluorophenyl)pyrimidine and 112 mg of 2-pentyn-1-ol, to which 54 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 5 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 211 mg of 4-(2,3-difluorophenyl)-6-(2-pentynyloxy)pyrimidine (the present compound (117)).

reactant | 4-chloro-6-(2,3-difluorophenyl)pyrimidine | 202 mg | ClC1=NC=NC(=C1)C1=C(C(=CC=C1)F)F | C10H5ClF2N2
reactant | 2-pentyn-1-ol | 112 mg | C(C#CCC)O | C5H8O
reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 4-(2,3-difluorophenyl)-6-(2-pentynyloxy)pyrimidine | 211 mg | FC1=C(C=CC=C1F)C1=NC=NC(=C1)OCC#CCC | C15H12F2N2O
